US05099019
PREPARATION A-18 4-[2-(Diethylamino)-6-(1-pyrrolidinyl)pyrimidinyl]piperazine
A solution of 2-diethylamino-4-piperazino-6-chloropyrimidine (4.10 g) in pyrrolidine (4.10 g) is heated at 100° for 12 h. The mixture is concentrated and the residue is partitioned between aqueous sodium bicarbonate and methylene chloride. The phases are separated and the organic phase is dried and concentrated to give the title compound, NMR (CDCl3) 1.15, 1.90, 2.90, 3.45, 3.70 and 4.75 δ.

reactant | 2-diethylamino-4-piperazino-6-chloropyrimidine | 4.10 g | C(C)N(C1=NC(=CC(=N1)N1CCNCC1)Cl)CC | C12H20ClN5
reactant | pyrrolidine | 4.10 g | N1CCCC1 | C4H9N
product | 4-[2-(Diethylamino)-6-(1-pyrrolidinyl)pyrimidinyl]piperazine | C(C)N(C1=NC(=CC(=N1)N1CCNCC1)N1CCCC1)CC | C16H28N6
